datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)[H])[H]>>CN([C:20]1(OC(C(C([O:21]1)CC)C)[H])[O-:10])[H] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(CC)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C)[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(CC)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])C(O)C([H])C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C([H])C(O)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C(CC)C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C)[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1[O+:10]([K])[C:21]([O-:20])(OCC)OC>>[O:20]=[C:21](OCC)OC.C1=CC=CC=C1[O:10][K] 20=21;21,10=10"
"CC[O:10][H].[H][NH+:21]=[C:20]([O][H])[NH]C.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([O][H])[NH]C 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21]C)([O]CC)[O][H].[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([O]CC)[O][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C(CCC)C(O)=C1C>>[O:10]([Na])C(CCC)/C(O)=C([C:20](OCC)=[O:21])/C 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)C)C1=CC=CC=C1)[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CC)CCCCCC)[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CC)CCCCCC)CC 10=20;20,21=21"
"[O-:21][CH:20]2([H])C3=C(C(C([NH+:10]2(C))C)O)C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20]([H])=[O:21])O)C  21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH]([H])[S]1 10=20;20,21=21"
